US05212187
N-[3-[N-[3-phenyl-3-(2-pyridyl)propyl]-N-methylamino]propyl]-N'-[3-[3-(piperidinomethyl)phenoxy]propyl]urea
Preparation is effected analogously to Example 63, using 0.74 g (2.6 mmol) of N-methyl-N-[3-phenyl-3-(2-pyridyl)propyl]-1,3-propanediamine, an equimolar amount of 1,1'-carbonyldiimidazole and 0.65 g (2.6 mmol) of 3-[3-(piperidinomethyl)phenoxy]propaneamine as starting materials. Working up by chromatography (eluant: ethyl acetate/methanol 9+1) analogously to Example 63 yields the purified title compound in the form of an oil; MS (+FAB method): m/z (rel. int.[%])=558 ([M+H]+, 11), 196 (100); IR (KBr): 1639 cm-1 (C=O). For analytical purposes a sample is converted into the maleic acid salt and recrystallised from ether/ethanol; m.p.: from 70° C. with decomposition.

reactant | N-methyl-N-[3-phenyl-3-(2-pyridyl)propyl]-1,3-propanediamine | 2.6 mmol, 0.74 g | CN(CCCN)CCC(C1=NC=CC=C1)C1=CC=CC=C1 | C18H25N3
reactant | 1,1'-carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-[3-(piperidinomethyl)phenoxy]propaneamine | 2.6 mmol, 0.65 g | N1(CCCCC1)CC=1C=C(OCCCN)C=CC1 | C15H24N2O
solvent | ethyl acetate methanol | C(C)(=O)OCC.CO
product | N-[3-[N-[3-phenyl-3-(2-pyridyl)propyl]-N-methylamino]propyl]-N'-[3-[3-(piperidinomethyl)phenoxy]propyl]urea | C1(=CC=CC=C1)C(CCN(C)CCCNC(=O)NCCCOC1=CC(=CC=C1)CN1CCCCC1)C1=NC=CC=C1 | C34H47N5O2
